US08426101B2
A mixture comprising 10.86 g (78.6 mmol) of 4-hydroxy-benzoic acid, 16.1 g (78.6 mmol) of (+)-chloromethyl menthyl ether, 12 ml of triethylamine, and 100 ml of acetone was stirred under nitrogen current at room temperature for 7 hours. To the mixture were added 200 ml of water and 200 ml of ethyl acetate, the organic layer was washed with water, a saturated sodium chloride aqueous solution, and water in the order, and the organic layer was dried with sodium sulfate. The solvent was concentrated, and the residue was purified by column chromatography (SiO2, hexane/ethyl acetate: 10/1) to obtain 18.75 g of ((1R,2S,5R)-2-isopropyl-5-methylcyclohexyloxy)-methyl 4-hydroxybenzoate as a white solid. A mixture comprising 9.19 g (0.03 mol) of the solid, 9.48 g (0.03 mol) of 1,1,2,2,3,3-hexafluoropropane-1,3-disulfonyl difluoride, 5.0 g of triethylamine, and 130 ml of THF was stirred under nitrogen current at room temperature for 3 hours, and further stirred under reflux for 2 hours. To the solution were added 200 ml of water and 200 ml of ethyl acetate, the organic layer was washed with water, a saturated sodium chloride aqueous solution, and water in the order, and the organic layer was dried with sodium sulfate. The solvent was concentrated, and the residue was purified by column chromatography (SiO2, hexane/ethyl acetate: 10/1) to obtain 15.26 g of an oily compound having a structure shown below. A mixture comprising 3.9 g (6.47 mmol) of the oily compound, 50 ml of ethanol, 1.06 g of sodium hydrogencarbonate, and 30 ml of water was stirred at room temperature for 10 hours. To the solution were added 200 ml of water and 200 ml of ethyl acetate, the organic layer was washed with water, a saturated sodium chloride aqueous solution, and water in the order, and the organic layer was dried with sodium sulfate. The solvent was concentrated, the residue was dissolved in 100 ml of methanol, and 2.22 g (6.47 mmol) of triphenylsulfonium bromide was added thereto, followed by stirring at room temperature for 3 hours. Chloroform (200 ml) was added to the solution, the organic layer was washed with water, and the residue was purified by column chromatography (SiO2, chloroform/methanol: 10/1) to obtain 5.24 g of an oily compound (A-35).

reactant | 4-hydroxy-benzoic acid | 78.6 mmol, 10.86 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | (+)-chloromethyl menthyl ether | 78.6 mmol, 16.1 g | C1(CC(C(CC1)C(C)C)OCCl)C | C11H21ClO
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | acetone | 100 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | ((1R,2S,5R)-2-isopropyl-5-methylcyclohexyloxy)-methyl 4-hydroxybenzoate | 18.75 g | OC1=CC=C(C(=O)OCO[C@H]2[C@@H](CC[C@H](C2)C)C(C)C)C=C1 | C18H26O4
